US07304072B2
(1) Preparation of Ethyl 4-chloro-2-(2-fluoro-phenylazo)-3-oxobutanoate
A solution of NaNO2 (0.96 g) in conc. H2SO4 (4 mL) was added to a solution of 2-fluoroaniline (1.52 g) in AcOH (23 mL) at 0° C., and the mixture was stirred for 1 hour at 0° C. The reaction mixture was added to a solution of ethyl 4-chloro-3-oxobutanoate (2.16 g) in a mixture of AcOH (10 mL) and H2O (20 mL) at 0° C. and the reaction mixture was stirred for 15 minutes at 0° C. A solution of NaOAc (12.2 g) in H2O (20 mL) was added to the reaction mixture at 0° C., and the reaction mixture was stirred for 1 hour at room temperature to produce a precipitate. The precipitate was collected by filtration and washed with H2O to yield 2.75 g of the title compound. AcOH and NaOAc means acetic acid and sodium acetate, respectively.

reactant | NaNO2 | 0.96 g | N(=O)[O-].[Na+]
reactant | 2-fluoroaniline | 1.52 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | ethyl 4-chloro-3-oxobutanoate | 2.16 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | NaOAc | 12.2 g | CC(=O)[O-].[Na+]
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
solvent | AcOH | 23 mL | CC(=O)O | C2H4O2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | Ethyl 4-chloro-2-(2-fluoro-phenylazo)-3-oxobutanoate | 2.75 g | ClCC(C(C(=O)OCC)N=NC1=C(C=CC=C1)F)=O | C12H12ClFN2O3
